US04380645
A solution of methyl 1,4-dimethylpyrrole-2-carboxylate (2.5 g, 0.016 m) in 20 ml of dried 1,2-dichloroethane was added over two minutes to a stirred mixture of phosphorous oxychloride (2.3 ml) and dried, N,N-dimethylformamide (1.94 ml) in 50 ml of dichloroethane, and the resultant mixture heated at 90° C. (bath temperature) for 45 minutes. The cooled reaction mixture was treated with excess ice-water and ether, 10% aqueous sodium carbonate (50 ml) added, the ether layer removed and the aqueous phase re-extracted two times with fresh ether, and the combined ether layers washed well with water and dried over anhydrous sodium sulfate. Concentration of the ether solution yielded 2.48 g (84%) of methyl 1,4-dimethyl-5-formylpyrrole-2-carboxylate as a yellow solid.

reactant | methyl 1,4-dimethylpyrrole-2-carboxylate | 2.5 g | CN1C(=CC(=C1)C)C(=O)OC | C8H11NO2
reactant | phosphorous oxychloride | 2.3 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | ether | CCOCC | C4H10O
reactant | sodium carbonate | 50 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,2-dichloroethane | 20 ml | ClCCCl | C2H4Cl2
product | methyl 1,4-dimethyl-5-formylpyrrole-2-carboxylate | 2.48 g, 84% | CN1C(=CC(=C1C=O)C)C(=O)OC | C9H11NO3
